US06716849B1
2-(2-Hydroxyethoxymethyl)-benzimidazole
Using a Dean-Stark separator, 1.4-dioxan-2-one (204 g, 20 mmol) and 1.2-diaminobenzene (2.16 g, 20 mmol) were heated under reflux in mesitylene (150 ml) for 10 h. The crystals formed on cooling were then filtered off with suction (2.94 g. 77% of theory). Rf (dichloromethane:methanol 10:1)=0.45, MS (EI)=192 (M+, 20%), 148 (20%), 147 (40%), 132 (100%), 1H-NMR (DMSO-d6): 3.6 (4H, s); 4.65 (1H, s); 4.7 (2H, s); 7.1-7.2 (2H, m); 7.45 (1H, d); 7.55 (1H, d); 12.4 (1H, br s).

reactant | 1.4-dioxan-2-one | 20 mmol, 204 g | O1C(COCC1)=O | C4H6O3
reactant | 1.2-diaminobenzene | 20 mmol, 2.16 g | NC1=C(C=CC=C1)N | C6H8N2
solvent | mesitylene | 150 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2-(2-Hydroxyethoxymethyl)-benzimidazole | OCCOCC=1NC2=C(N1)C=CC=C2 | C10H12N2O2
